US04016193
2-(3-nitro-4-methoxyphenyl)propionic acid
5.23g of 2-(4-methoxyphenyl)propionic acid was added gradually under cooling in a mixture of 27.5g of nitric acid and 19.9g of sulfuric acid. After the mixture was stirred at -10° C to -5° C for 6 hours, the mixture was poured into ice-water. The thus obtained oily substance was extracted with ethyl acetate. The extract was dried over magnesium sulfate and distilled off. The residue was purified by means of silica gel chromatography to give the object compound having m.p. 89° - 90° C in a yield of 5.0g (76%).

reactant | 2-(4-methoxyphenyl)propionic acid | 5.23g | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
reactant | nitric acid | 27.5g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 19.9g | S(O)(O)(=O)=O | H2O4S
product | 2-(3-nitro-4-methoxyphenyl)propionic acid | [N+](=O)([O-])C=1C=C(C=CC1OC)C(C(=O)O)C | C10H11NO5
